US05089496
D. N-(1,1-dimethylethyl)-3,5-dimethyl-2-pyridine carboxamide
To a stirred solution of 20.3 g (0.153 mol) of 2-cyano-3,5-dimethylpyridine in 100 mL of acetic acid was added 20 mL of conc. sulfuric acid within 10 minutes (temp. rose to 35° C.), followed by 20 mL of t-butanol over an additional 15 minutes. The solution was warmed at 75° C. for 30 minutes after which it was cooled to room temperature and basified with 25% NaOH. The product was extracted 3×with EtOAc (600 mL), which was combined and washed 1× with brine, dried (Na2SO4), filtered and concentrated in vacuo to give the title compound (31.26 g) as a yellowish oil.

reactant | 2-cyano-3,5-dimethylpyridine | 0.153 mol, 20.3 g | C(#N)C1=NC=C(C=C1C)C | C8H8N2
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | t-butanol | 20 mL | C(C)(C)(C)O | C4H10O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | N-(1,1-dimethylethyl)-3,5-dimethyl-2-pyridine carboxamide | 31.26 g | CC(C)(C)NC(=O)C1=NC=C(C=C1C)C | C12H18N2O
